US06897306B2
Preparation 29: tert-Butyl (3R)-6-cyclohexyl-3-{3-[7,8-dihydro[1,6]naphthyridin-6(5H)-ylcarbonyl]-1,2,4-oxadiazol-5-yl}hexanoate
A solution of ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (300 mg, 0.76 mmol) in ethanol (4 ml) was treated with 5,6,7,8-tetrahydro[1,6]naphthyridine dihydrochloride (Chem.Pharm.Bull.; 32; 7; 1984; 2522-2529) (0.79 g, 3.80 mmol) and triethylamine (1.27 ml, 9.13 mmol) and the resulting mixture was heated at 60° C. under a nitrogen atmosphere for 16 hours. The mixture was cooled and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:ethyl acetate (90:10) gradually changing to dichloromethane:ethyl acetate (50:50) to afford the title compound (281 mg).

reactant | ethyl 5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 0.76 mmol, 300 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | 5,6,7,8-tetrahydro[1,6]naphthyridine dihydrochloride | 3.80 mmol, 0.79 g | Cl.Cl.N1=CC=CC=2CNCCC12
reactant | triethylamine | 9.13 mmol, 1.27 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-{3-[7,8-dihydro[1,6]naphthyridin-6(5H)-ylcarbonyl]-1,2,4-oxadiazol-5-yl}hexanoate | 281 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CC=2C=CC=NC2CC1 | C27H38N4O4
